### ISSUE TITLE
LT and LE for bitvectors

### ISSUE THREAD

**Issue by shigoel** [leanprover-community/lean-auto#10]
The following is a theorem, but worryingly, `auto` reported a counterexample.

```
theorem auto_bitvec_inequality_test (i j max : Std.BitVec 64)
  (h0 : i < max) (h1 : j <= max - i) (h2 : 0#64 < j) :
  (max - (i + j)) < (max - i) := by
  auto
```

From the generated SMT commands (pasted in at the end of this message), one can see that the issue was that `<` and `<=` were defined as uninterpreted SMT functions, and not in terms of `bvult` and `bvule`, as I had expected.

This was inconsistent with `+` and `-`, which were indeed resolved to `bvadd` and `bvneg`.

```
 (declare-sort |Empty| 0)
 (define-fun |nsub| ((|x| |Int|) (|y| |Int|)) |Int| (|ite| (|>=| |x| |y|) (|-| |x| |y|) 0))
 (define-fun |itdiv| ((|x| |Int|) (|y| |Int|)) |Int| (|ite| (|=| |y| 0) |x| (|ite| (|>=| |x| 0) (|div| |x| |y|) (|-| (|div| (|-| |x|) |y|)))))
 (define-fun |itmod| ((|x| |Int|) (|y| |Int|)) |Int| (|ite| (|=| |y| 0) |x| (|ite| (|>=| |x| 0) (|mod| |x| |y|) (|-| (|mod| (|-| |x|) |y|)))))
 (define-fun |iediv| ((|x| |Int|) (|y| |Int|)) |Int| (|ite| (|=| |y| 0) 0 (|div| |x| |y|)))
 (define-fun |iemod| ((|x| |Int|) (|y| |Int|)) |Int| (|ite| (|=| |y| 0) |x| (|mod| |x| |y|)))
 (declare-fun |smti_0| () (_ BitVec 64))
 (declare-fun |smti_1| () (_ BitVec 64))
 (declare-fun |smti_2| ((_ BitVec 64) (_ BitVec 64)) |Bool|)
 (assert (! (|smti_2| |smti_0| |smti_1|) :named valid_fact_0))
 (declare-fun |smti_3| () (_ BitVec 64))
 (declare-fun |smti_4| ((_ BitVec 64) (_ BitVec 64)) |Bool|)
 (assert (! (|smti_4| |smti_3| (|bvadd| |smti_1| (|bvneg| |smti_0|))) :named valid_fact_1))
 (assert (! (|smti_2| #b0000000000000000000000000000000000000000000000000000000000000000 |smti_3|) :named valid_fact_2))
 (assert (! (|not| (|smti_2| (|bvadd| |smti_1| (|bvneg| (|bvadd| |smti_0| |smti_3|))) (|bvadd| |smti_1| (|bvneg| |smti_0|)))) :named valid_fact_3))
 
[auto.smt.result] z3 says Sat, model:
    ((|define-fun| |smti_0| () (|_| |BitVec| 64) 0) (|define-fun| |smti_3| () (|_| |BitVec| 64) 18446744073709549568) (|define-fun| |valid_fact_3| () |Bool| (|let| ((|a!1| (|smti_2| (|bvadd| |smti_1| (|bvneg| (|bvadd| |smti_0| |smti_3|))) (|bvadd| |smti_1| (|bvneg| |smti_0|))))) (|not| |a!1|))) (|define-fun| |valid_fact_2| () |Bool| (|smti_2| 0 |smti_3|)) (|define-fun| |valid_fact_1| () |Bool| (|smti_4| |smti_3| (|bvadd| |smti_1| (|bvneg| |smti_0|)))) (|define-fun| |valid_fact_0| () |Bool| (|smti_2| |smti_0| |smti_1|)) (|define-fun| |smti_1| () (|_| |BitVec| 64) 262160) (|define-fun| |smti_4| ((|x!0| (|_| |BitVec| 64)) (|x!1| (|_| |BitVec| 64))) |Bool| |true|) (|define-fun| |smti_2| ((|x!0| (|_| |BitVec| 64)) (|x!1| (|_| |BitVec| 64))) |Bool| (|ite| (|and| (|=| |x!0| 264208) (|=| |x!1| 262160)) |false| |true|)))

```

**Comment by shigoel** [comment]
Here is an attempt to re-state the formula in terms of `Std.BitVec.ult` and `Std.BitVec.ule` to get around the issue:

```
theorem auto_bitvec_inequality_test_1 (i j max : Std.BitVec 64)
   (h0 : Std.BitVec.ult i max) (h1 : Std.BitVec.ule j (max - i))
   (h2 : Std.BitVec.ult 0#64 j) :
   Std.BitVec.ult (max - (i + j)) (max - i) := by
   auto
```

Unfortunately, auto ran for several minutes, and produced the following:
`[auto.smt.result] z3 produces unexpected check-sat response |timeout|`

However, when I independently submitted the SMT file to z3 (version 4.11.2 - 64 bit), it was solved in ~0.06s.

Generated SMT file:
```
 (declare-sort |Empty| 0) 
 (define-fun |nsub| ((|x| |Int|) (|y| |Int|)) |Int| (|ite| (|>=| |x| |y|) (|-| |x| |y|) 0)) 
 (define-fun |itdiv| ((|x| |Int|) (|y| |Int|)) |Int| (|ite| (|=| |y| 0) |x| (|ite| (|>=| |x| 0) (|div| |x| |y|) (|-| (|div| (|-| |x|) |y|))))) 
 (define-fun |itmod| ((|x| |Int|) (|y| |Int|)) |Int| (|ite| (|=| |y| 0) |x| (|ite| (|>=| |x| 0) (|mod| |x| |y|) (|-| (|mod| (|-| |x|) |y|))))) 
 (define-fun |iediv| ((|x| |Int|) (|y| |Int|)) |Int| (|ite| (|=| |y| 0) 0 (|div| |x| |y|))) 
 (define-fun |iemod| ((|x| |Int|) (|y| |Int|)) |Int| (|ite| (|=| |y| 0) |x| (|mod| |x| |y|))) 
 (declare-fun |smti_0| () (_ BitVec 64)) 
 (declare-fun |smti_1| () (_ BitVec 64)) 
 (assert (! (|=| (|bvult| |smti_0| |smti_1|) |true|) :named valid_fact_0)) 
 (declare-fun |smti_2| () (_ BitVec 64)) 
(assert (! (|=| (|bvule| |smti_2| (|bvadd| |smti_1| (|bvneg| |smti_0|))) |true|) :named valid_fact_1)) 
 (assert (! (|=| (|bvult| #b0000000000000000000000000000000000000000000000000000000000000000 |smti_2|) |true|) :named valid_fact_2)) 
 (assert (! (|not| (|=| (|bvult| (|bvadd| |smti_1| (|bvneg| (|bvadd| |smti_0| |smti_2|))) (|bvadd| |smti_1| (|bvneg| |smti_0|))) |true|)) :named valid_fact_3)) 
```

**Comment by PratherConid** [comment]
I cannot reproduce `[auto.smt.result] z3 produces unexpected check-sat response |timeout|`, and instead got a crash in Lean server.
According to the behaviour of `lean-auto` on my machine, there are three separate issues:
1. The signature of `fun (a b : BitVec 64) => a <= b` is different from `@Std.BitVec.ule 64`, so `auto` does not recognize them as the same. To fix this, simplification rules is needed.
2. The Sexp parser in Lean-auto is too slow and it times out when parsing the proof (which is 30 million bytes long) of your second example. I've added an option `auto.smt.rconsProof` to skip proof parsing (which defaults to skipping).
3. The `trace[auto.smt.result] ...{proof}...` causes Lean to crash, presumably because `proof` is too long. I've splitted `auto.smt.result` into `auto.smt.result`, `auto.smt.proof` and `auto.smt.model`.

**Comment by shigoel** [comment]
Thank you, @PratherConid! Indeed, the second example (the one with `Std.BitVec.ult` and `Std.BitVec.ule`) does work for me after turning off `proof`.
